US04077976
38.4 G (0.3 MOLE) OF N-ethyl-2-aminomethylpyrrolidine and a drop of hydrochloric acid d = 1.18 were added into a 250 ml flask provided with a stirrer, a thermometer, a condenser and a dropping funnel; 38.4 g (0.3 mole) of methyl acetoacetate were added drop by drop. The temperature reached 54° C by the end of the introduction. The mixture was next allowed to return to ambient temperature while stirring, and 150 ml of methylene chloride and 5 g of magnesium sulphate were then added. The mixture was stirred for one hour, filtered, the solvent was evaporated in vacuo, and the residue was distilled. 55 g of methyl N-(1-ethyl-2-pyrrolidylmethyl)-3-aminocrotonate were obtained. (Yield: 81.1%; boiling point - 3 mm/Hg: 132°-134° C).

reactant | N-ethyl-2-aminomethylpyrrolidine | C(C)N1C(CCC1)CN | C7H16N2
reactant | hydrochloric acid d | [2H]Cl | ClH
reactant | methyl acetoacetate | 0.3 mole, 38.4 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | magnesium sulphate | 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | methyl N-(1-ethyl-2-pyrrolidylmethyl)-3-aminocrotonate | 55 g, Yield: 81.1% | C(C)N1C(CCC1)CN\C(=C/C(=O)OC)\C | C12H22N2O2
